US07741327B2
In a flask under argon was placed triflic anhydride (10.22 mL, 61 mmol) and dichloromethane (10 mL) and it was cooled to −70° C. To this cooled mixture was added slowly a solution of 2,2-difluoroethanol (5.00 g, 61 mmol) and triethylamine (8.5 mL, 61 mmol) in dichloromethane (10 mL). After the addition was complete, the mixture was warmed to 25° C. and then concentrated in vacuo. This material was distilled at 60° C. and 50 mm Hg which afforded trifluoro-methanesulfonic acid 2,2-difluoro-ethyl ester (9.74 g, 75%) as a colorless oil.

reactant | triflic anhydride | 61 mmol, 10.22 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2,2-difluoroethanol | 61 mmol, 5.00 g | FC(CO)F | C2H4F2O
reactant | triethylamine | 61 mmol, 8.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid 2,2-difluoro-ethyl ester | 9.74 g, 75% | FC(COS(=O)(=O)C(F)(F)F)F | C3H3F5O3S
